US06150351
To a solution of 7β-[2-(5-tert-butoxycarbonylamino-1,2,4-thiadiazol-3-yl)acetamido]-3-(5-methyl-1,3,4-thiadiazol-2-yl)thio-3-cephem-4-carboxylic acid (800 mg) in dichloromethane (2.4 ml) was added trifluoroacetic acid (10.4 ml). The mixture was stirred for 30 minutes at room temperature. The reaction mixture was poured into diisopropyl ether (150 ml). The precipitate was collected by filtration and dried. The precipitate was dissolved in a mixture of aqueous sodium hydrogen carbonate (212 mg/30 ml) and tetrahydrofuran (10 ml). The solution was washed with ethyl acetate (30 ml). To the aqueous layer was added a mixture of tetrahydrofuran (15 ml) and ethyl acetate (45 ml), adjusted to pH 2 with 1N-hydrochloric acid. The organic layer was washed with saturated aqueous sodium chloride, dried over magnesium sulfate and concentrated in vacuo. The residue was triturated with diethyl ether to give 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-(5-methyl-1,3,4-thiadiazol-2-yl)thio-3-cephem-4-carboxylic acid (490 mg).

reactant | 7β-[2-(5-tert-butoxycarbonylamino-1,2,4-thiadiazol-3-yl)acetamido]-3-(5-methyl-1,3,4-thiadiazol-2-yl)thio-3-cephem-4-carboxylic acid | 800 mg | C(C)(C)(C)OC(=O)NC1=NC(=NS1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C=2SC(=NN2)C)C(=S)O)C1=O | C19H21N7O5S4
reactant | trifluoroacetic acid | 10.4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | diisopropyl ether | 150 ml | C(C)(C)OC(C)C | C6H14O
solvent | dichloromethane | 2.4 ml | ClCCl | CH2Cl2
product | 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-(5-methyl-1,3,4-thiadiazol-2-yl)thio-3-cephem-4-carboxylic acid | 490 mg | NC1=NC(=NS1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C=2SC(=NN2)C)C(=S)O)C1=O | C14H13N7O3S4
